US07560558B2
Compound 153: [2-({7-[3-(Diethylamino)-2-hydroxypropoxy]-6-methoxy-4-quinolyl}oxy)-5-methylphenyl](phenyl)methanone
(2-{[6-Methoxy-7-(2-oxiranylmethoxy)-4-quinolyl]oxy}-5-methylphenyl)(phenyl)methanone (39 mg) and diethylamine (19 mg) were suspended in N,N-dimethylformamide (3 ml), and the suspension was stirred at 80° C. overnight. The reaction solution was cooled to room temperature, water was then added to the reaction solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was then washed with water and saturated brine and was dried over anhydrous sodium sulfate. The solvent was removed therefrom by distillation under the reduced pressure, and the residue was purified by thin layer chromatography using methanol-chloroform to give the title compound (21 mg, yield 46%).

reactant | (2-{[6-Methoxy-7-(2-oxiranylmethoxy)-4-quinolyl]oxy}-5-methylphenyl)(phenyl)methanone | 39 mg | COC=1C=C2C(=CC=NC2=CC1OCC1OC1)OC1=C(C=C(C=C1)C)C(=O)C1=CC=CC=C1 | C27H23NO5
reactant | diethylamine | 19 mg | C(C)NCC | C4H11N
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | [2-({7-[3-(Diethylamino)-2-hydroxypropoxy]-6-methoxy-4-quinolyl}oxy)-5-methylphenyl](phenyl)methanone | 21 mg, yield 46% | C(C)N(CC(COC1=C(C=C2C(=CC=NC2=C1)OC1=C(C=C(C=C1)C)C(=O)C1=CC=CC=C1)OC)O)CC | C31H34N2O5
